US08008298B2
To a solution of 1-(3-bromo-5-methoxymethoxy-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione (643 mg, 1.88 mmol) in dry THF (8 ml) (under nitrogen) was added a solution of borane-dimethylsulfide complex (1.7 ml, 16.9 mmol, 10.1M) via slow drop-wise addition. The material was stirred for 12 hours. The mixture was cooled (ice bath) and carefully quenched via the slow drop-wise addition of water (10 ml). Methylene chloride (60 ml), and water (50 ml) were added and the material shaken. The organic phase was collected and washed with brine (60 ml). The aqueous phases were back extracted with methylene chloride (2×50 ml). The organics were combined, dried (MgSO4), filtered and stripped to provide a crude oil. The material was adsorbed onto silica (12 g) and purified by silica gel chromatography, eluting with 5% to 9% ethyl acetate in hexanes to afford 517 mg of 1-(3-bromo-5-methoxymethoxy-phenyl)-3,3-dimethyl-pyrrolidine as a clear oil.

reactant | 1-(3-bromo-5-methoxymethoxy-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione | 1.88 mmol, 643 mg | BrC=1C=C(C=C(C1)OCOC)N1C(C(CC1=O)(C)C)=O | C14H16BrNO4
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-(3-bromo-5-methoxymethoxy-phenyl)-3,3-dimethyl-pyrrolidine | 517 mg | BrC=1C=C(C=C(C1)OCOC)N1CC(CC1)(C)C | C14H20BrNO2
